US07214673B2
(S)-2-(2-Pyridin-2-yl-ethyl)-piperazine
Dissolve (S)-1,4-dibenzyl-2-(2-pyridin-2-yl-ethyl)-piperazine (2.86 g, 7.69 mmol) in ethanol (50 mL). Add ammonium formate (2.43 g, 38.5 mmol) and palladium (430 mg, 5 wt. % on carbon) and heat to reflux. After 6 hours 40 minutes, filter the palladium on carbon and concentrate the filtrate. Purify by silica gel chromatography using 7N ammonia in methanol-methylene chloride (5%–15%) as the eluent to give the title compound (1.1 g, 75%): mp 83–87° C.; mass spectrum (ion spray): m/z=192 (M+1). Analysis calculated for C11H17N3: C, 69.07; H, 8.96; N, 21.97. Found: C, 68.84; H, 8.85; N, 21.65.

reactant | (S)-1,4-dibenzyl-2-(2-pyridin-2-yl-ethyl)-piperazine | 7.69 mmol, 2.86 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCC1=NC=CC=C1 | C25H29N3
reactant | ammonium formate | 38.5 mmol, 2.43 g | C(=O)[O-].[NH4+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium | 430 mg | [Pd] | Pd
product | (S)-2-(2-Pyridin-2-yl-ethyl)-piperazine | 1.1 g, 75% | N1=C(C=CC=C1)CC[C@@H]1NCCNC1 | C11H17N3
